Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],5.26018129185
[H:1][O:2][C:3]=[C:4]([H:5])[H:6].[H:7]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],-2.99231228573
[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])[H:11],-3.2254721666500004
[C:1].[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],-7.3883130875699985
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][H:7]>>[H:1][C:2]#[C:3][O:6][H:7].[O:4][H:5],3.28493484269
[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.51132772364
[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-3.76586848646
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[O:2]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.05603228257
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:8](=[O:7])[H:9]>>[C:1]=[C:2]([H:3])[C@@:4]1([H:5])[O:6][O:7][C:8]1[H:9],2.6677677767500003
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:5]([H:6])([H:7])[O:8][H:9].[O:1][C:2]#[C:3][H:4],3.84151282225
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4],1.59656481618
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])=[C:13]([H:14])[H:15],4.1053188918900005
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[O:2],1.42386026865
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])=[C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],-0.4613174462389999
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.97353347085
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10],4.65782618046
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])([C:5]#[C:6])[O:10][H:11]>>[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])[H:9])[O:10][H:11],-7.463145613210001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],4.8854846493
[H:1][C:4]([O:3]/[C:2]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]1[O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-0.81603249625
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.7052938760499998
[O:1]=[C:2]([H:3])[C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([O:5][H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],0.624263233581
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[H:9],4.0324540464
[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])[H:6].[O:1][O:2][C:3][C:7]([H:8])([H:9])[H:10],7.59642616343
[H:1][O:2][C@@:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[O:12][H:13]>>[H:1][O:2][C:4]([C:3]([H:6])([C:10](=[C:7]([H:8])[H:9])[O:12][H:13])[H:11])[H:5],-0.639577241151
[H:1][C:2]([O:3][C@@:4]1([H:5])[O:6][C:7]1[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]([H:5])[C:7](=[O:6])[H:8])[C:9]([H:10])([H:11])[H:12],-1.99737399724
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:8]=[C:9]([H:10])[H:11].[H:7],0.996652465507
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[C:11]([H:12])([H:13])[H:14],3.95900355491
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.760360296
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:12]([H:13])([H:14])[H:15].[O:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.709155612612
